US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(7-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 7-fluoroindoline as starting materials, the title compound was prepared in 40% yield. The final material was purified by reverse phase preparative HPLC using TFA as a modifier. The final compound is therefore a partial TFA salt and the properties are reported for the material as it appeared after solvent removal: 1H NMR (CDCl3, 400 MHz) δ 0.73-0.87 (m, 2H), 1.03-1.28 (m, 6H), 1.58-1.78 (m, 6H), 1.83-1.95 (m, 1H), 3.01 (dd, 2H, J1=J2=8.4), 3.41-3.50 (m, 4H), 3.55-3.72 (m, 1H), 3.84 (s, 3H), 4.63 (dd, 1H, J1=7.1, J2=14.3), 6.53-6.68 (m, 2H), 6.78 (dd, 1H, J1=8.5, J2=12.3), 6.86 (d, 1H, J1=7.0), 7.01-7.08 (m, 2H), 7.20 (d, 1H, J1=7.8), 7.26-7.39 (m, 3H); HPLC-MS calcd. for C28H36FN3O3 (M+H+) 482.3, found 482.5.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 7-fluoroindoline | FC=1C=CC=C2CCNC12 | C8H8FN
product | (S)—N-{3-Cyclohexyl-1-[2-(7-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 40% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=CC=CC(=C12)F)=O)NC(C1=CC(=CC=C1)OC)=O | C28H36FN3O3
